.INCLUDE ./include.lst

* 0 is default node of circuit ground
*               X,Y,Z,W,VIN
.SUBCKT vadd 1 2 3
	a2 [1 2] 3 sum
	.model sum summer(in_offset=[0,0] in_gain=[1.0,1.0] out_gain=1.0 out_offset=0)
.ENDS vadd

.SUBCKT vmul 1 2 3
	a2 [1 2] 3 mul
	.model mul mult(in_offset=[0,0] in_gain=[1.0,1.0] out_gain=1.0 out_offset=0)
.ENDS vmul

